US03962255
A mixture of 17 parts of 2,2,7,7-tetramethyl-1,4-diazaheptan-5-one, 19 parts of benzylchloroformate and 250 parts of dry benzene was heated at reflux for 16 hours. The solvent was then evaporated in vacuo to yield an almost colourless oil. Addition of 20 parts of petroleum ether (of boiling range 40° to 60°C) produced 4-benzyloxycarbonyl-2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one as a colourless solid of melting point 86° -88°C. This material gave the following elemental analysis by weight:

reactant | 2,2,7,7-tetramethyl-1,4-diazaheptan-5-one | CC(N)(CNC(CC(C)C)=O)C | C9H20N2O
reactant | benzylchloroformate | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-benzyloxycarbonyl-2,2,7,7-tetramethyl-1,4-diazacycloheptan-5-one | C(C1=CC=CC=C1)OC(=O)N1CC(NC(CC1=O)(C)C)(C)C | C17H24N2O3
